US04602044
1-Phenyl-2-[1-methyl-3-(4-nitrophenyl)propylamino]ethanol
A solution of 5.0 g. (25.9 mM) of 2-amino-1-phenylethanol and 3.55 g. (25.9 mM) of methyl 2-(4-nitrophenyl)ethyl ketone in 60 ml. of toluene containing 10 mg. of para-toluenesulfonic acid was heated at reflux for six hours in a flask equipped with a Dean-Stark trap. The water that formed during the reaction was removed via the trap, and then the reaction mixture was cooled to room temperature and concentrated to dryness by evaporation of the solvent under reduced pressure. The solid product that remained was dissolved in 50 ml. of tetrahydrofuran and the solution was heated to reflux. A solution of 13.5 ml. of 2N borane-methyl sulfide complex in tetrahydrofuran was then added dropwise to the reaction mixture, and the mixture was refluxed for an additional ninety minutes. After cooling the reaction mixture to room temperature, it was diluted by addition of diethyl ether saturated with hydrogen chloride. The precipitate that formed was collected by filtration and crystallized from ethanol and diethyl ether to give 3.29 g. of a racemic diastereomeric mixture of 1-phenyl-2-[1-methyl-3-(4-nitrophenyl)propylamino]ethanol hydrochloride. M.P. 203°-213° C.

reactant | 2-amino-1-phenylethanol | 25.9 mM | NCC(O)C1=CC=CC=C1 | C8H11NO
reactant | methyl 2-(4-nitrophenyl)ethyl ketone | 25.9 mM | [N+](=O)([O-])C1=CC=C(C=C1)CCC(=O)C | C10H11NO3
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1-phenyl-2-[1-methyl-3-(4-nitrophenyl)propylamino]ethanol hydrochloride | Cl.C1(=CC=CC=C1)C(CNC(CCC1=CC=C(C=C1)[N+](=O)[O-])C)O
solvent | water | O | H2O
solvent | toluene | 10 mg | C1(=CC=CC=C1)C | C7H8
product | 1-Phenyl-2-[1-methyl-3-(4-nitrophenyl)propylamino]ethanol | C1(=CC=CC=C1)C(CNC(CCC1=CC=C(C=C1)[N+](=O)[O-])C)O | C18H22N2O3
